US05070103
2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal and 4-methoxybenzaldehyde are reacted in the same manner as described in Example 1-(1), whereby 2-(4-methoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal is obtained as colorless syrup. Yield: 82%

reactant | 2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal | COC(C1=C(C=C2C(=C1)OCO2)Br)OC | C10H11BrO4
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 2-(4-methoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal | Yield: 82% | COC(C1=C(C=C2C(=C1)OCO2)C(C2=CC=C(C=C2)OC)O)OC | C18H20O6
